US09029371B2
To a degassed solution of 2-(4-bromo-phenyl)-thiomorpholine-4-carboxylic acid tert-butyl ester (0.75 g; 2.09 mmol) and N,N′-dimethylethylenediamine (0.11 mL; 1.05 mmol) in 1,4-dioxane (10 mL) was added CuI (39.9 mg; 0.21 mmol) and NaI (0.78 g; 5.23 mmol). The resulting mixture was heated in a closed vessel, at 130° C., for 3 days. After cooling to room temperature the mixture was concentrated in vacuo, and the residue was purified by column chromatography (SiO2, CH2Cl2/hexanes 1:1) to afford 2-(4-iodo-phenyl)-thiomorpholine-4-carboxylic acid tert-butyl ester (0.35 g).

reactant | 2-(4-bromo-phenyl)-thiomorpholine-4-carboxylic acid tert-butyl ester | 2.09 mmol, 0.75 g | C(C)(C)(C)OC(=O)N1CC(SCC1)C1=CC=C(C=C1)Br | C15H20BrNO2S
reactant | N,N′-dimethylethylenediamine | 1.05 mmol, 0.11 mL | CNCCNC | C4H12N2
reactant | NaI | 5.23 mmol, 0.78 g | [Na+].[I-]
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | CuI | 0.21 mmol, 39.9 mg | [Cu]I
product | 2-(4-iodo-phenyl)-thiomorpholine-4-carboxylic acid tert-butyl ester | 0.35 g | C(C)(C)(C)OC(=O)N1CC(SCC1)C1=CC=C(C=C1)I | C15H20INO2S
